US05641789
Synthesis of 7-methoxy-2-(3-nitrobenzylidene)-3,4-dihydro-2H-napthalen-1-one
2.5 mL (30.1 mmol) of pyrrolidine were added to a room temperature (about 25° C.) solution of 5.30 g (30.1 mmol) of 7-methoxy-1-tetraione and 4.55 g (30.1 mmol) of 3-nitrobenzaldehyde in 25 mL methanol. The reaction flask was fitted with a soxhlet extractor containing a thimble filled with 3 Å molecular sieves and a reflux condenser was placed on top of the soxhlet extractor. The reaction mixture was heated to reflux under N2 for 18 hours, cooled to room temperature and filtered. The precipitate was washed twice with CH3OH, and then dried on the funnel for 24 hours to yield 6.62 g of light tan powder. (71% yield).

reactant | pyrrolidine | 30.1 mmol, 2.5 mL | N1CCCC1 | C4H9N
reactant | 7-methoxy-1-tetraione | 30.1 mmol, 5.30 g | COC1=CC=C2CCCC(C2=C1)=O | C11H12O2
reactant | 3-nitrobenzaldehyde | 30.1 mmol, 4.55 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
solvent | methanol | 25 mL | CO | CH4O
product | 7-methoxy-2-(3-nitrobenzylidene)-3,4-dihydro-2H-napthalen-1-one | 71% yield | COC1=CC=C2CCC(C(C2=C1)=O)=CC1=CC(=CC=C1)[N+](=O)[O-] | C18H15NO4
